US06096743
A mixture of 9.36 g (27.7 mmol) of N-(5-fluoro-2-nitro-4-trifluoromethylphenyl)glycine tert-butyl ester, 7.54 g of imidazole and 30 ml of DMF was stirred for 2 hours on an oil bath at 60° C. After cooling, the reaction mixture was concentrated under reduced pressure. The residue was poured into water and the compound so precipitated was collected by filtration. The resulting compound was washed successively with water and ethyl ether and then dried under reduced pressure to give 8.95 g (84%) of N-[5-(1H-imidazol-1-yl)-2-nitro-4-trifluoromethylphenyl)glycine tert-butyl ester.

reactant | N-(5-fluoro-2-nitro-4-trifluoromethylphenyl)glycine tert-butyl ester | 27.7 mmol, 9.36 g | C(C)(C)(C)OC(CNC1=C(C=C(C(=C1)F)C(F)(F)F)[N+](=O)[O-])=O | C13H14F4N2O4
reactant | imidazole | 7.54 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N-[5-(1H-imidazol-1-yl)-2-nitro-4-trifluoromethylphenyl)glycine tert-butyl ester | 8.95 g, 84% | C(C)(C)(C)OC(CNC1=C(C=C(C(=C1)N1C=NC=C1)C(F)(F)F)[N+](=O)[O-])=O | C16H17F3N4O4
